US07705025B2
(2-Fluoro-4-thiophen-2-yl-phenyl)-((S)-2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
The title compound is prepared in a manner substantially analogous to Procedure Q starting from 2-thiophene boronic acid and (4-Bromo-2-fluoro-phenyl)-((S)-2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone to give 29 mg (58%). MS (ES+) 359.1

reactant | 2-thiophene boronic acid | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | (4-Bromo-2-fluoro-phenyl)-((S)-2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | BrC1=CC(=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1)F | C16H20BrFN2O
product | (2-Fluoro-4-thiophen-2-yl-phenyl)-((S)-2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | FC1=C(C=CC(=C1)C=1SC=CC1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C20H23FN2OS
